US06951870B2
2,3-Dihydroxy- 1-nitro-7,8,9,10-tetrahydro-benzo[c]chromen-6-one
A solution of 5 M HNO3 in H2SO4 (1 ml) was added to solution of acetic acid 3-acetoxy-6-oxo-7,8,9,10-tetrahydro-6H-benzo[c]chromen-2-yl ester (1.6 g) in concentrated sulfuric acid (20 ml) and stirred at room temperature for an hour. The mixture was treated with ice (150 g) and filtered. The product was purified by column chromatography on silica (10% methanol in dichloromethane). Yield: 50 mg, melting point 238-255° C.

reactant | HNO3 | 5 M | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid 3-acetoxy-6-oxo-7,8,9,10-tetrahydro-6H-benzo[c]chromen-2-yl ester | 1.6 g | C(C)(=O)OC1=C(C=C2C3=C(C(OC2=C1)=O)CCCC3)OC(C)=O | C17H16O6
solvent | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-Dihydroxy- 1-nitro-7,8,9,10-tetrahydro-benzo[c]chromen-6-one | OC=1C(=C2C3=C(C(OC2=CC1O)=O)CCCC3)[N+](=O)[O-] | C13H11NO6
